US09382228B2
A solution of (4-(4-((2-Methyl-6-(3-pivaloylureido)pyridin-3-yl)oxy)pyridin-2-yl)-1H-1,2,3-triazol-1-yl)methyl pivalate (0.16 g, 0.314 mmol) and TEA (0.175 mL, 1.256 mmol) in MeOH (5 mL) was stirred at 40° C. for ˜40 h. The solvent was evaporated to dryness and the residue was purified by silica gel chromatography (MeOH/DCM), and lyophilized from MeCN/H2O to afford N-((5-((2-(1H-1,2,3-triazol-4-yl)pyridin-4-yl)oxy)-6-methylpyridin-2-yl)carbamoyl)pivalamide (62 mg, 50%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.18 (s, 1H), 10.40 (br s, 1H), 8.49 (d, J=5.9 Hz, 1H), 8.23 (br s, 1H), 7.93 (br s, 1H), 7.70 (d, J=8.8 Hz, 1H), 7.35 (br s, 1H), 6.90 (d, J=5.5 Hz, 1H), 2.26 (s, 3H), 1.21 (s, 9H); MS (ESI) m/z: 396.2 (M+H+).

reactant | (4-(4-((2-Methyl-6-(3-pivaloylureido)pyridin-3-yl)oxy)pyridin-2-yl)-1H-1,2,3-triazol-1-yl)methyl pivalate | 0.314 mmol, 0.16 g | C(C(C)(C)C)(=O)OCN1N=NC(=C1)C1=NC=CC(=C1)OC=1C(=NC(=CC1)NC(=O)NC(C(C)(C)C)=O)C | C25H31N7O5
solvent | MeOH | 5 mL | CO | CH4O
product | N-((5-((2-(1H-1,2,3-triazol-4-yl)pyridin-4-yl)oxy)-6-methylpyridin-2-yl)carbamoyl)pivalamide | 62 mg, 50% | N1N=NC(=C1)C1=NC=CC(=C1)OC=1C=CC(=NC1C)NC(=O)NC(C(C)(C)C)=O | C19H21N7O3
